US09301951B2
Intermediate 75a: N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(azidomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide
Into a 50-mL round-bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide (200 mg, 0.18 mmol, 1.00 equiv, 60%) in N,N-dimethylformamide (5 mL), and NaN3 (70 mg, 1.08 mmol, 5.00 equiv). The resulting solution was stirred for 2 h at 80° C. in an oil bath. The resulting solution was diluted with 25 mL of water. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 1×50 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:2). The product was obtained as 55 mg (49%) a yellow solid.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 0.18 mmol, 200 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CBr)=O)=O)C=CC1)(F)F | C33H30BrF3N4O2
reactant | NaN3 | 1.08 mmol, 70 mg, 5.00 equiv | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
product | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(azidomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 55 mg, 49% | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CN=[N+]=[N-])=O)=O)C=CC1)(F)F | C33H30F3N7O2
